US07576094B2
A mixture of 5,7,8-trimethyl-4-oxo-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-yl acetate (110 mg), N-methylhydroxylamine hydrochloride (64 mg), and sodium acetate (63 mg) in methanol (5 mL) was refluxed for 5 h. The mixture was diluted with ethyl acetate, washed with water and brine, dried and evaporated to give 100 mg of 4-(methoxyimino)-5,7,8-trimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-yl acetate, which was used in the next step without further purification.

reactant | 5,7,8-trimethyl-4-oxo-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-yl acetate | 110 mg | C(C)(=O)OC=1C(=C2C(CC3(CCC3)OC2=C(C1C)C)=O)C | C17H20O4
reactant | N-methylhydroxylamine hydrochloride | 64 mg | Cl.CNO
reactant | sodium acetate | 63 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(methoxyimino)-5,7,8-trimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-yl acetate | 100 mg | C(C)(=O)OC=1C(=C2C(CC3(CCC3)OC2=C(C1C)C)=NOC)C | C18H23NO4
